US07626031B2
5-[1-(2-methoxyethyl)-piperidin-4-yloxy]-1,3-dihydro-indol-2-one
To an oven dried, nitrogen flushed 100 ml round bottom flask was added 5-hydroxyoxindole (10 mmol), 1-(2-methoxyethyl)-piperidin-4-ol (11 mmol), triphenylphosphine (15 mmol), Anhydrous tetrahydrofuran (35 ml) and a stirrer bar. Diethyl azodicarboxylate (15 mmol) was added slowly to the mixture and stirred at room temperature overnight. The reaction was concentrated in vacuo and flash chromatography (silica, 5% methanol in ethyl acetate). Upon concentration a reddish oil (470 mg) was obtained with a 75% purity by H-NMR and LC/MS.

reactant | 5-hydroxyoxindole | 10 mmol | OC=1C=C2CC(NC2=CC1)=O | C8H7NO2
reactant | 1-(2-methoxyethyl)-piperidin-4-ol | 11 mmol | COCCN1CCC(CC1)O | C8H17NO2
reactant | triphenylphosphine | 15 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 15 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 5-[1-(2-methoxyethyl)-piperidin-4-yloxy]-1,3-dihydro-indol-2-one | COCCN1CCC(CC1)OC=1C=C2CC(NC2=CC1)=O | C16H22N2O3
